US05281593
vi) 7-(2-Cyanoethyl)indole
A solution of 7-[2-(E)-cyanoethenyl]indole (0.28 g) in ethanol (75 ml) was hydrogenated at 50 psi over 10% palladium on charcoal (0.1 g) for 4 hours. The catalyst was filtered off and the filtrate was evaporated to give the product.

reactant | 7-[2-(E)-cyanoethenyl]indole | 0.28 g | C(#N)/C=C/C=1C=CC=C2C=CNC12 | C11H8N2
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | 7-(2-Cyanoethyl)indole | C(#N)CCC=1C=CC=C2C=CNC12 | C11H10N2
